US06069145
(5R)-3-(3-Fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)-oxazolidin-2-one (950 mg) was dissolved in dry DMF (30 ml) and sodium azide (893 mg) was added. The mixture was heated at 80° C. for 5 hours, and then evaporated to dryness. The residue was dissolved in ethyl acetate and the resulting solution washed with water and dried (MgSO4). The crude product so obtained was chromatographed on silica, using as eluant a gradient increasing in polarity from 0 to 6% methanol in dichloromethane. Relevant fractions were combined and evaporated to give (5R)-5-azidomethyl-3-(3-fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)oxazolidin-2-one (777 mg).

reactant | (5R)-3-(3-Fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)-oxazolidin-2-one | 950 mg | FC=1C=C(C=CC1N1CC(N(CC1)CC)=O)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C17H22FN3O6S
reactant | sodium azide | 893 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (5R)-5-azidomethyl-3-(3-fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)oxazolidin-2-one | 777 mg | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CC(N(CC1)CC)=O)F | C16H19FN6O3
